US06716981B2
Preparation of N-(2-amino-4,6-dichloropyrimidin-5-yl)-formamide
2,5-Diamino-4,6-dichloropyrimidine (0.01 mol; 2.0 g) and water (0.25 mol; 4.55 ml) were stirred at room temperature. 98% strength formic acid (0.4 mol; 18.27 g; 14.97 ml) was then added to the reaction. The reaction was subsequently heated to 50-55° C. and kept at this temperature for 3 h. Toluene (0.38 mol; 34.6 g; 40 ml) was then added for the azeotropic distillation under high vacuum at 50° C. (toluene was added twice to guarantee a good distillation, i.e. a total of 80 ml).

reactant | 2,5-Diamino-4,6-dichloropyrimidine | 0.01 mol, 2.0 g | NC1=NC(=C(C(=N1)Cl)N)Cl | C4H4Cl2N4
reactant | water | 0.25 mol, 4.55 ml | O | H2O
reactant | formic acid | 0.4 mol, 14.97 ml, 18.27 g | C(=O)O | CH2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 0.38 mol, 40 ml, 34.6 g | C1(=CC=CC=C1)C | C7H8
product | N-(2-amino-4,6-dichloropyrimidin-5-yl)-formamide | NC1=NC(=C(C(=N1)Cl)NC=O)Cl | C5H4Cl2N4O
